US08207164B2
c) 5-Difluoromethyl-5-(2-fluoro-phenyl)-5,6-dihydro-2H-[1,4]oxazin-3-ylamine
5-Difluoromethyl-5-(2-fluoro-phenyl)-morpholine-3-thione (160 g, 570 mmol) was dissolved in 2.4 L of a NH3 solution 7 mol/L in methanol for 6.5 h and afterwards left standing overnight. The reaction mixture was evaporated and taken up in 2 L 1N aqueous HCl and 2 L TBME. The aqueous phase was washed with TBME and made basic by the addition of 300 ml 30% aqueous NaOH and some ice. The mixture was extracted with DCM three times and the combined organic layers were dried with Na2SO4 and concentrated in vacuo. The title compound was obtained by crystallization from DCM/heptanes (128.45 g).

reactant | 5-Difluoromethyl-5-(2-fluoro-phenyl)-morpholine-3-thione | 570 mmol, 160 g | FC(C1(COCC(N1)=S)C1=C(C=CC=C1)F)F | C11H10F3NOS
reactant | NH3 | 7 mol/L, 2.4 L | N | H3N
solvent | methanol | CO | CH4O
product | 5-Difluoromethyl-5-(2-fluoro-phenyl)-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | FC(C1(N=C(COC1)N)C1=C(C=CC=C1)F)F | C11H11F3N2O
